US09260442B2
benzyl N-[1-[[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4-yl]amino]methyl]propyl]carbamate is prepared by treating benzyl N-[1-[[(5-bromo-2-chloro-pyrimidin-4-yl)amino]methyl]propyl]-carbamate with 3,3-diethoxyprop-1-yne in the presence of a catalyst such as Pddba using similar experimental conditions as described for the synthesis of tert-butyl N-[2-[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4 yl]amino]ethyl]carbamate LCMS (ESI) (M+H) 461.

reactant | benzyl N-[1-[[(5-bromo-2-chloro-pyrimidin-4-yl)amino]methyl]propyl]-carbamate | BrC=1C(=NC(=NC1)Cl)NCC(CC)NC(OCC1=CC=CC=C1)=O | C16H18BrClN4O2
reactant | 3,3-diethoxyprop-1-yne | C(C)OC(C#C)OCC | C7H12O2
reactant | tert-butyl N-[2-[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4 yl]amino]ethyl]carbamate | ClC1=NC=C(C(=N1)NCCNC(OC(C)(C)C)=O)C#CC(OCC)OCC | C18H27ClN4O4
product | benzyl N-[1-[[[2-chloro-5-(3,3-diethoxyprop-1-ynyl)pyrimidin-4-yl]amino]methyl]propyl]carbamate | ClC1=NC=C(C(=N1)NCC(CC)NC(OCC1=CC=CC=C1)=O)C#CC(OCC)OCC | C23H29ClN4O4
